US09126939B2
Synthesis of cis-2-[4-(cyclopentylamino)phenyl]-1-(2-fluoro-6-methylbenzoyl)-N-[4-formyl-3-(trifluoromethyl)phenyl]piperidine-3-carboxamide
To a solution of cis-2-[4-(cyclopentylamino)phenyl]-1-(2-fluoro-6-methyl-benzoyl)-N-[4-(hydroxymethyl)-3-(trifluoromethyl)phenyl]piperidine-3-carboxamide (130 mg, 0.22 mmol) in 1,2-dichloroethane (2 mL) was added MnO2 (380 mg, 4.4 mmol) at room temperature. The reaction mixture was stirred for 3 h and was then diluted with dichloromethane, filtered through a plug of SiO2, and the filtrate was concentrated under reduced pressure. The residue was purified by HPLC to get the desired compound (as a mixture of cis enantiomers) in 31% yield (40 mg). 1H NMR (400 MHz, CDCl3) δ 10.2 (bs, 1H), 8.12-6.88 (m, 10H), 3.82-3.04 (m, 4H), 2.88-1.40 (m, 18H). MS: (ES) m/z 596 (M+H+).

reactant | cis-2-[4-(cyclopentylamino)phenyl]-1-(2-fluoro-6-methyl-benzoyl)-N-[4-(hydroxymethyl)-3-(trifluoromethyl)phenyl]piperidine-3-carboxamide | 0.22 mmol, 130 mg | C1(CCCC1)NC1=CC=C(C=C1)[C@@H]1N(CCC[C@@H]1C(=O)NC1=CC(=C(C=C1)CO)C(F)(F)F)C(C1=C(C=CC=C1C)F)=O | C33H35F4N3O3
solvent | 1,2-dichloroethane | 2 mL | ClCCCl | C2H4Cl2
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | MnO2 | 4.4 mmol, 380 mg | O=[Mn]=O
product | cis-2-[4-(cyclopentylamino)phenyl]-1-(2-fluoro-6-methylbenzoyl)-N-[4-formyl-3-(trifluoromethyl)phenyl]piperidine-3-carboxamide | 31% yield | C1(CCCC1)NC1=CC=C(C=C1)[C@@H]1N(CCC[C@@H]1C(=O)NC1=CC(=C(C=C1)C=O)C(F)(F)F)C(C1=C(C=CC=C1C)F)=O | C33H33F4N3O3
